US06162445
Preparation of 4-[3-oxo-3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propynyl]benzoic acid:
500 mg (1.38 mmol) of 4-(3-hydroxy-3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propynyl]benzoic acid, 50 ml of dichloromethane and 2.4 g (27.6 mmol) of manganese oxide were introduced into a round-bottomed flask which was placed in an ultrasonic bath for 4 hours. The reaction mixture was filtered, the filtrate was evaporated and the residue was purified by simple filtration through silica in ethyl ether. 90 mg (18%) of the expected compound, with a melting point of 208°-209° C., were recovered.

reactant | 4-(3-hydroxy-3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propynyl]benzoic acid | 1.38 mmol, 500 mg | OC(C#CC1=CC=C(C(=O)O)C=C1)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C24H26O3
catalyst | manganese oxide | 27.6 mmol, 2.4 g | [O-2].[Mn+2]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-[3-oxo-3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propynyl]benzoic acid | O=C(C#CC1=CC=C(C(=O)O)C=C1)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C24H24O3
